US06030747
Subsequently, carboxyhexacyclo[6.6.1.13,6.110,13.02,7.09,14 ]heptadecen of 2.1 grams and 3,4-dihydro-2H-pyran of 1.71 grams were dissolved in tetrahydrofuran of 50 milli-litter, and p-toluen sulfonic acid of 0.03 gram was added to the solution. The reaction was continued at room temperature for 2 hours. The resultant material was diluted in ether of 100 milli-litter, and was washed in 3% solution of Na2CO3, saturated water of salt and water in this order, and the organic layer was dried with MgSO4. When ether and residual 3,4-dihydro-2H-pyran were removed in vacuum by using an evaporator, we obtained viscous-liquid of 12-tetrahydropyranyloxycarbonilhexacyclo[6.6.1.13,6.110,13.02,7.09,14 ]heptadecen of 2 grams.

reactant | carboxyhexacyclo[6.6.1.13,6.110,13.02,7.09,14 ]heptadecen | C(=O)(O)C12C3=C4C5C6CCC(C5C(C3C(CC1)C2)C4)C6 | C18H22O2
reactant | 3,4-dihydro-2H-pyran | O1CCCC=C1 | C5H8O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | p-toluen sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ether | CCOCC | C4H10O
product | heptadecen | C=CCCCCCCCCCCCCCCC | C17H34
